US06750242B1
5-Benzyloxyindole-3-acetonitrile
The title compound was prepared by a method analogous to that described in Example 1 from benzyl bromide and 5-hydroxyindole-3-acetonitrile. MS ES (MH−)=263.

reactant | benzyl bromide | C(C1=CC=CC=C1)Br | C7H7Br
reactant | 5-hydroxyindole-3-acetonitrile | OC=1C=C2C(=CNC2=CC1)CC#N | C10H8N2O
product | 5-Benzyloxyindole-3-acetonitrile | C(C1=CC=CC=C1)OC=1C=C2C(=CNC2=CC1)CC#N | C17H14N2O
